US08975397B2
Step e: 6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
To a suspension of sodium hydride (55% dispersion in mineral oil, 852 mg, 20 mmol) in THF (27 mL) was added a solution of [3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol (103 mg, 0.55 mmol) (3.68 g, 18 mmol) in THF (54 mL) at 0° C. and the reaction mixture warmed to room temperature over 30 min. Then a solution of methyl 6-chloronicotinate (3.35 g, 20 mmol) in THF (1.5 mL) was added dropwise at 0° C. and the reaction mixture was stirred at room temperature overnight. The reaction mixture was then poured into aqueous sodium chloride (saturated) and the mixture was extracted with ethyl acetate. The combined organic layers were then washed with water and brine and then dried over sodium sulfate, filtered and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=7:3) afforded the title compound (81 mg, 47%) which was obtained as a light yellow solid. MS: m/e=343.3 [M+H]+.

reactant | sodium hydride | 20 mmol, 852 mg | [H-].[Na+]
reactant | [3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 0.55 mmol, 103 mg | FC1=CC=C(C=C1)C1=NOC(=C1CO)C | C11H10FNO2
reactant | methyl 6-chloronicotinate | 20 mmol, 3.35 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | THF | 54 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 81 mg, 47% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C18H15FN2O4
